US08053438B2
A suspension of N-(4-(3-chloropyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine (180 mg, 0.507 mmol), 2-methylpyridin-4-ylboronic acid (278 mg, 2.03 mmol), PdCl2(dppf)-CH2Cl2 adduct (41.4 mg, 0.051 mmol), and sodium carbonate (323 mg, 3.04 mmol) in 1,4-dioxane (3 mL) and water (2 mL) was sparged with argon for 5 min, then heated to 100° C. for 2 h. The reaction mixture was partitioned between EtOAc and 1M NaOH. The aqueous layer was extracted with EtOAc (2×) and the combined organics was dried over Na2SO4 and concentrated. The crude material was absorbed on Silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 70% EtOAc in hexane, to provide N-(4-(3-(2-methylpyridin-4-yl)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine as white solid. MS (ESI, pos. ion) m/z: 412.0 (M+1). IC50 (uM) +++++.

reactant | N-(4-(3-chloropyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine | 0.507 mmol, 180 mg | ClC=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C17H11ClN4OS
reactant | 2-methylpyridin-4-ylboronic acid | 2.03 mmol, 278 mg | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
reactant | sodium carbonate | 3.04 mmol, 323 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.051 mmol, 41.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | N-(4-(3-(2-methylpyridin-4-yl)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine | CC1=NC=CC(=C1)C=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C23H17N5OS
